US07314888B1
In 2 ml of tetrahydrofuran is dissolved 150 mg of 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-2-propenoic acid. After adding 14 mg of lithium aluminum hydride at 5-10° C., the mixture thus obtained is stirred for one hour. The reaction mixture is added to a mixture of chloroform and water, pH is adjusted to 3.0 with 2 mol/L hydrochloric acid, and the organic layer is separated. After successively washing the organic layer with water and saturated aqueous solution of sodium chloride and drying it over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography [eluent; n-hexane:ethyl acetate=4:1] to obtain 80 mg of 3-[5-[(2,4-diisobutoxyphenyl)(hydroxy)methyl]-2-isobutoxyphenyl]-2-propenoic acid as a colorless foaming product.

reactant | 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-2-propenoic acid | 150 mg | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)C=CC(=O)O)OCC(C)C)C=CC(=C1)OCC(C)C | C28H36O6
reactant | lithium aluminum hydride | 14 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[5-[(2,4-diisobutoxyphenyl)(hydroxy)methyl]-2-isobutoxyphenyl]-2-propenoic acid | 80 mg | C(C(C)C)OC1=C(C=CC(=C1)OCC(C)C)C(C=1C=CC(=C(C1)C=CC(=O)O)OCC(C)C)O | C28H38O6
